US04361512
Sodium 2-benzyloxycarbonylmethylthio-6-(1-hydroxy)ethyl-carbapen-2-em-3-carboxylate
A solution of p-nitrobenzyl 2-benzyloxycarbonylmethylthio-6-(1-hydroxy)ethyl-carbapen-2-em-3-carboxylate (7.1 mg, 0.014 mmol) in dioxane (0.84 ml) is treated with ethanol (0.07 ml), water (0.49 ml) containing sodium bicarbonate (1.4 mg, 0.017 mmol), and 10% palladium on charcoal (7.1 mg) and the mixture is hydrogenated at 40 psi for 30 minutes. The mixture is diluted to 3 ml with water and centrifuged to remove the catalyst which is washed with more water (2×1 ml). The combined aqueous solution is washed with ethylacetate (4×2 ml), filtered through a cotton plug, concentrated in vacuo to ca. 1 ml, and lyophilized to provide the title compound as a powder: UV (0.1 M pH 7 phosphate buffer) 300 nm; electrophoresis (0.05 M pH 7 phosphate buffer, 2 KV, 25 ma, 20 mins) gives a single bioactive zone migrating 3.5 cm toward the anode.

reactant | p-nitrobenzyl 2-benzyloxycarbonylmethylthio-6-(1-hydroxy)ethyl-carbapen-2-em-3-carboxylate | 0.014 mmol, 7.1 mg | C(C1=CC=CC=C1)OC(=O)CSC=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2C(C)O)=O | C25H24N2O8S
reactant | ethanol | 0.07 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | 0.017 mmol, 1.4 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 0.84 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 7.1 mg | [Pd] | Pd
solvent | water | O | H2O
solvent | water | 0.49 ml | O | H2O
product | Sodium 2-benzyloxycarbonylmethylthio-6-(1-hydroxy)ethyl-carbapen-2-em-3-carboxylate | C(C1=CC=CC=C1)OC(=O)CSC=1C[C@H]2N(C1C(=O)[O-])C(C2C(C)O)=O.[Na+] | InChI=1S/C18H19NO6S.Na/c1-10(20)15-12-7-13(16(18(23)24)19(12)17(15)22)26-9-14(21)25-8-11-5-3-2-4-6-11;/h2-6,10,12,15,20H,7-9H2,1H3,(H,23,24);/q;+1/p-1/t10?,12-,15?;/m1./s1
